US09023844B2
150 mg of 2-(4-fluorophenyl)-7-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine (0.419 mmol, 1.1 eq.) and 87 mg of N-(4-bromopyridin-2-yl)propanamide (0.381 mmol, 1 eq.) are dissolved in 1.5 ml of 1,4-dioxane. To this solution are added 22 mg of bis(tricyclohexylphosphine)-palladium(II)dichloride (0.03 mmol, 0.08 eq) and a aqueous solution of Na2CO3 (5 eq, 0.952 ml). The reaction mixture is flushed for 5 mins with argon and then sealed. Next the mixture is heated for 15 mins at 120° C. in the microwave (CEM Explorer). After cooling, the reaction mixture is diluted with EtOAc and washed with water. The combined organic phase are dried over Na2SO4 and concentrated in vacuo. The crude product is purified by silica gel chromatography (eluent cyclohexane/ethyl acetate). 34 mg (21%) of N-{4-[2-(4-fluorophenyl)-7-methyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-yl}propanamide are obtained.

reactant | 2-(4-fluorophenyl)-7-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine | 0.419 mmol, 150 mg, 1.1 eq. | FC1=CC=C(C=C1)C1=NN2C(OCCC2C)=C1B1OC(C(O1)(C)C)(C)C | C19H24BFN2O3
reactant | N-(4-bromopyridin-2-yl)propanamide | 0.381 mmol, 87 mg, 1 eq. | BrC1=CC(=NC=C1)NC(CC)=O | C8H9BrN2O
reactant | Na2CO3 | 0.952 ml, 5 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)-palladium(II)dichloride | 0.03 mmol, 22 mg, 0.08 eq | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | N-{4-[2-(4-fluorophenyl)-7-methyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-yl}propanamide | 34 mg, 21% | FC1=CC=C(C=C1)C1=NN2C(OCCC2C)=C1C1=CC(=NC=C1)NC(CC)=O | C21H21FN4O2
